US05292885
A mixture of 11.4 g of 2-formyl-3-pentanone and 17 g of isopropenyl acetate was brought to reflux in the presence of 0.1 g of sulfuric acid. After removal of the acetone formed at ambient pressure, the desired product was distilled under vacuum. In this manner 11 g of 1-acetoxy-2-methyl-1-pentene-3-one was obtained under conditions of 104° C. and 16 mm of mercury, which is a yield of 70%.

reactant | 2-formyl-3-pentanone | 11.4 g | C(=O)C(C)C(CC)=O | C6H10O2
reactant | isopropenyl acetate | 17 g | C(C)(=O)OC(=C)C | C5H8O2
catalyst | sulfuric acid | 0.1 g | S(O)(O)(=O)=O | H2O4S
product | 1-acetoxy-2-methyl-1-pentene-3-one | 11 g, yield of 70% | C(C)(=O)OC=C(C(CC)=O)C | C8H12O3
